US07655669B2
4-(1H-Imidazol-1-yl)-3-(trifluoromethyl)-benzoic acid
A mixture of 4-(1H-imidazol-1-yl)-3-(trifluoromethyl)-benzonitrile (1.99 g, 8.4 mmol), 12 mL of acetic acid and 6 mL of 12M hydrochloric acid (37%) is shaken for 16 hours at 95° C. After cooling down the reaction mixture is evaporated under reduced pressure. The resulting residue is dissolved in water and the pH is adjusted to ˜5-6 by dropwise addition of 1M sodium hydroxide solution. The precipitate is filtered off, washed with water and dried in vacuo to afford the title compound as a solid.

reactant | 4-(1H-imidazol-1-yl)-3-(trifluoromethyl)-benzonitrile | 8.4 mmol, 1.99 g | N1(C=NC=C1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C11H6F3N3
reactant | hydrochloric acid | 12M, 6 mL | Cl | ClH
reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 4-(1H-Imidazol-1-yl)-3-(trifluoromethyl)-benzoic acid | N1(C=NC=C1)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C11H7F3N2O2
